2113-01-01 06:26:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
   - Patient had multiple episodes of chest and left shoulder pain.
   Unchanged ekg's; treated with morphine 2mg on 2 occasions
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical records
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2113-1-1**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Musculoskeletal: Joint pain, left shoulder and back
   Flowsheet Data as of  [**2113-1-1**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 61 (58 - 70) bpm
   BP: 180/68(107) {117/36(75) - 180/68(107)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.8 kg (admission): 73.4 kg
   Height: 64 Inch
             Total In:
                                                                  1,444 mL
                                                                    420 mL
   PO:
                                                                    550 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    894 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    465 mL
   Urine:
                                                                  1,575 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -131 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.46/38/84.[**Numeric Identifier 1000**]/23/2
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), IABP sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   9.7 g/dL
   160 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   136 mEq/L
   26.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2112-12-30**]  10:08 PM
                             [**2112-12-31**]  05:26 AM
                             [**2112-12-31**]  07:34 AM
                             [**2112-12-31**]  09:00 AM
                             [**2112-12-31**]  03:00 PM
                             [**2112-12-31**]  11:08 PM
                             [**2113-1-1**]  04:44 AM
   WBC
   6.1
   6.8
   7.9
   Hct
   27.8
   27.4
   26.8
   Plt
   151
   170
   159
   151
   Cr
   0.9
   1.0
   0.9
   TropT
   0.21
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 12586**]93
   160
   Other labs: PT / PTT / INR:12.8/53.7/1.1, CK / CKMB /
   Troponin-T:53/3/0.21, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12576**] is a 64M with severe CAD s/p CABG x 3. He is not a surgical
   candidate per CT surgery.
   .
   1. CORONARY ARTERY DISEASE: pt with CAD s/p CABG x 3. Pt with severe 3V
   disease with 1 graft patent.   per Dr. [**Last Name (STitle) 7145**], plan for intervention on
   monday. Has episodes of chest and left shoulder pain in the absence of
   ekg changes treated as musculoskeletal pain. Currently chest pain free
   on nitro, heparin, IABP in place.
   - integrillin off (was on for 24 hours)
   - continue nitro gtt, heparin gtt, IABP
   - pt has PTT that is low for amount of heparin infused, became
   therapeutic on 1600 units/hr
   - Metoprolol 12.5mg PO BID as tolerated by BP and HR
   - high dose statin, ASA
   - Dr. [**Last Name (STitle) 7145**] to review cath films for potential catheter-based
   intervention
   .
   2. PUMP: ECHO with distal septal hypokinesis, EF 55%. Appears euvolemic
   on exam without evidence of failure.
   - continue to assess fluid status
   - holding ACE for now given catheterization
   .
   3. RHYTHM: sinus
   .
   4. DIABETES:
   - check HBA1C
   - hold glyburide, metformin while in house
   - HISS, adjusted for higher insulin doses than previous
   .
   5. HYPERCHOLESTEROLEMIA:
   - high dose statin
   - continue gemfibrizol, zetia
   - lipid panel in AM
   .
   # Chronic Pain: Patient has old left shoulder pain (10 years +),
   current right shoulder pain (3 days +) and back pain. He has an
   overlapping musculoskeletal pain syndrome that can be worrisome for the
   pain of angina. His presentation begun with a piercing left chest pain.
   -          ekg
s when called for chest pain
   -          continue oxycodone and 2mg IV morphine for breakthrough
   .
   6. FEN: cardiac/diabetic diet
   .
   7. PPx: IV heparin, colace
   .
   8. Code Status: FULL
   .
   9. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   IABP line - [**2112-12-30**] 09:15 PM
   Arterial Line - [**2112-12-31**] 02:56 AM
   18 Gauge - [**2112-12-31**] 10:10 PM
   20 Gauge - [**2112-12-31**] 10:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section ------
   PLAN TO REFLECT ROUNDS AND MORNING EVENTS
   Mr. [**Known lastname 12576**] is a 64M with severe CAD s/p CABG x 3. He is not a surgical
   candidate per CT surgery.
   .
   1. CORONARY ARTERY DISEASE: pt with CAD s/p CABG x 3. Pt with severe 3V
   disease with 1 graft patent.  per Dr. [**Last Name (STitle) 7145**], plan for intervention on
   monday. Has episodes of chest and left shoulder pain in the absence of
   ekg changes treated as musculoskeletal pain. Currently chest pain free
   on nitro, heparin, IABP in place.
   - integrillin off (was on for 24 hours)
   - continue nitro gtt, heparin gtt, IABP
   - pt has PTT that is low for amount of heparin infused, became
   therapeutic on 1600 units/hr
   - Metoprolol 12.5mg PO BID as tolerated by BP and HR
   - high dose statin, ASA
   - Dr. [**Last Name (STitle) 7145**] to review cath films for potential catheter-based
   intervention
   .
   # IABP site bleed: Patient oozing after sitting up. Worry about tear in
   femoral artery, Could also be because of hypocoaguability on heparin
   which can be understated by ptt.
   - hold pressure
   - hold off on integrillin and plavix for now
   .
   2. PUMP: ECHO with distal septal hypokinesis, EF 55%. Appears euvolemic
   on exam without evidence of failure.
   - continue to assess fluid status
   - restart ACE, on quinapril at home, use captopril here
   .
   3. RHYTHM: sinus
   .
   4. DIABETES:
   - check HBA1C
   - hold glyburide, metformin while in house
   - HISS, adjusted for higher insulin doses than previous
   .
   5. HYPERCHOLESTEROLEMIA:
   - high dose statin
   - continue gemfibrizol, zetia
   - lipid panel in AM
   .
   # Chronic Pain: Patient has old left shoulder pain (10 years +),
   current right shoulder pain (3 days +) and back pain. He has an
   overlapping musculoskeletal pain syndrome that can be worrisome for the
   pain of angina. His presentation begun with a piercing left chest pain.
   -          ekg
s when called for chest pain
   -          continue oxycodone and 2mg IV morphine for breakthrough
   .
   6. FEN: cardiac/diabetic diet
   .
   7. PPx: IV heparin, colace
   .
   8. Code Status: FULL
   .
   9. Dispo: CCU for now
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2113-1-1**] 09:37 ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2113-1-5**] 10:07 ------

2113-01-02 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Spiked temp to 102 on [**1-1**], culture sent, and pt started on IV
   Vancomycin
   - Spiked fever again to 101.6 at MN of [**1-2**], recultured and cxr ordered
   - Fever rose to 103.7.  Ice packs on.
   - Complained of abdominal pain with rebound tenderness on exam, ordered
   stat KUB, no obstruction, no free air. Guaiac negative. surgery
   consulted. Abx broadened to vanc/cipro/flagyl. given 250cc NS+500ccNS.
   c.diff sent.
   - Hypertensive to 170s at 2am in context of pain, given extra 3.25mg
   captopril, 2.5mg IV metoprolol, 10mg IV hydral
   - IABP site was oozing blood, pressure dressing on, bleeding stopped
   - Plavix and integrillin held given oozing
   - Pt is a Jehovah's Witness, no pRBC's even if acutely bleeding,
   platelets are ok
   - Pt is NPO since midnight, consent signed for cath
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2113-1-2**] 04:05 AM
   Metronidazole - [**2113-1-2**] 05:04 AM
   Vancomycin - [**2113-1-2**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Nitroglycerin - 3.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2113-1-2**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-2**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 39.8
C (103.7
   Tcurrent: 39.2
C (102.5
   HR: 85 (58 - 93) bpm
   BP: 148/60(98) {95/45(65) - 212/81(131)} mmHg
   RR: 26 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.8 kg (admission): 73.4 kg
   Height: 64 Inch
             Total In:
                                                                  2,376 mL
                                                                  1,901 mL
   PO:
                                                                    870 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,506 mL
                                                                  1,661 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    300 mL
   Urine:
                                                                  1,465 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    911 mL
                                                                  1,601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.49/32/86/21/1
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious man
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic/AT, anicteric, non-injected
   sclera, oropharynx clear
   Cardiovascular: (S1: Normal), (S2: Normal), balloon [**Year (2 digits) 632**] on preventing
   more subtle auscultation
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Clear to auscultation
   bilaterally, but limited by noise from balloon [**Year (2 digits) 632**]
   Abdominal: Soft, Mild distention and voluntary guarding, tender to
   palpation throughout but most in LLQ
   Extremities: WWP, no c/c/e
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented  x3,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   142 K/uL
   9.1 g/dL
   219 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.5 mEq/L
   13 mg/dL
   96 mEq/L
   130 mEq/L
   24.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2112-12-31**]  05:26 AM
                             [**2112-12-31**]  07:34 AM
                             [**2112-12-31**]  09:00 AM
                             [**2112-12-31**]  03:00 PM
                             [**2112-12-31**]  11:08 PM
                             [**2113-1-1**]  04:44 AM
                             [**2113-1-1**]  11:08 AM
                             [**2113-1-1**]  11:12 AM
                             [**2113-1-1**]  11:18 AM
                             [**2113-1-2**]  03:17 AM
   WBC
   6.8
   7.9
   11.2
   10.1
   Hct
   27.4
   26.8
   27.9
   24.9
   Plt
   170
   159
   151
   165
   142
   Cr
   1.0
   0.9
   1.0
   TropT
   0.22
   0.26
   TCO2
   28
   25
   Glucose
   190
   193
   193
   160
   219
   Other labs: PT / PTT / INR:13.2/52.8/1.1, CK / CKMB /
   Troponin-T:55/3/0.26, ALT / AST:32/38, Alk Phos / T Bili:78/0.7,
   Amylase / Lipase:32/, Differential-Neuts:82.6 %, Lymph:8.8 %, Mono:7.4
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, LDH:240 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12576**] is a 64M with severe CAD s/p CABG x 3. He is not a surgical
   candidate per CT surgery.
   .
   1. Fever/Abdominal pain: Patient with recurring fevers since [**1-1**] on
   Tylenol for which he was started on IV Vancomycin. WBC 10.1 today.
   Continued to spiked to as high as 103.7 early this AM with episode of
   hypertension to sbp 170
s corrected with low dose Captopril/Metoprolol
   & Hydralazine. Blood cultures, urine cultures from [**1-1**] & [**1-2**] pending.
   U/A
s x 2 negative. Also with complaint of abdominal pain this AM. CXR
   obtained this AM appears clear, unchanged from CXR on [**1-1**]. KUB
   obtained this AM demonstrates some dilatation of the stomach, but no
   free air. No CT given balloon [**Month/Year (2) 632**]. Guaiac negative. Surgery was
   consulted, recommending broadening Abx coverage. Source of infection
   may be balloon [**Month/Year (2) 632**] placed at [**Hospital 10862**] Hospital.
   - Pull balloon [**Hospital 632**]
   - CT abdomen/pelvis
   - F/U reads of CXR & KUB
   - Tylenol/Ice packs PRN
   - Continue IV Vancomycin 100mg q12H, day 2
   - Continue Ciprofloxacin 400mg IV q12H, day 1
   - Continue Flagyl 500mg IV q8H, day 1
   - F/U cx
   - PM lactate
   .
   2. CORONARY ARTERY DISEASE: Pt with CAD s/p CABG x 3. Pt with severe 3V
   disease with 1 graft patent.  Plan for cardiac catheterization with Dr.
   [**Last Name (STitle) 7145**] today, but now febrile with fear of balloon [**Last Name (STitle) 632**] infection.
   Episodes of chest and left shoulder pain are in the absence of EKG, but
   he is currently chest pain free on Nitro gtt.
   - Pulling balloon [**Last Name (STitle) 632**]
   - Holding heparin gtt for now
   - Cardiac catheterization on hold unless patient has refractory CP
   - Integrillin/Plavix held for now
   - Continue nitro gtt
   - Metoprolol 12.5mg PO BID as tolerated by BP and HR
   - High dose statin, ASA
   .
   3. Anemia: Patient with Hct 24.9 today, from 27.9 on [**1-1**]. He had
   oozing from IABP site, pressure applied. Holding Integrilin & Plavix
   for now. Patient refusing pRBC
s given religious beliefs (Jehovah
   Witness).
   - Holding Heparin gtt after pulling of balloon [**Last Name (LF) 632**], [**First Name3 (LF) **] restart after
   4 hours
   - Trend CBC, PM Hct
   - Fluid resuscitation PRN with IVF
   .
   4. [**First Name3 (LF) **]: ECHO with distal septal hypokinesis, EF 55%. Appears euvolemic
   on exam without evidence of failure.
   - Continue to assess fluid status
   - Holding ACE for now
   .
   5. RHYTHM: Patient in sinus rhythm. No h/o arrhythmia.
   - Telemetry
   .
   6. DIABETES:
   - HbA1c from [**1-1**] pending
   - Holding home Glyburide, Metformin in house
   - HISS, titrate PRN
   .
   7. HYPERCHOLESTEROLEMIA: Total cholesterol 117, HDL 31, LDL 54
   - Continue Atorvastatin 80mg daily
   - Continue Gemfibrizol 600mg [**Hospital1 7**]
   - Continue Ezetimibe 10mg daily
   .
   8. Chronic Pain: Patient has old left shoulder pain (10 years +),
   current right shoulder pain (3 days +) and back pain. He has an
   overlapping musculoskeletal pain syndrome that can be worrisome for the
   pain of angina. His presentation begun with a piercing left chest pain.
   - EKG
s when called for chest pain
   - Changed Oxycodone to standing and continue 2mg IV morphine for
   breakthrough
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Insulin sliding scale
   Lines:
   IABP line - [**2112-12-30**] 09:15 PM
   Arterial Line - [**2112-12-31**] 02:56 AM
   20 Gauge - [**2113-1-2**] 01:12 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: None
   VAP:  N/A
   Communication:  Patient
   Code status: Full code
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12599**].
   I would add the following remarks:
   Medical Decision Making
   He developed a fever of 103.7 and was cultured. He has c/o left flank
   pain, the side where the IABP is located. IABP removed given fever,
   flank pain and oozing. Will go for CT to eveluate for retroperitoneal
   hematoma. If he has refractory CP, can go to the lab today, otherwise
   will go Wednesday. On vanco, cipor and flagyll.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2113-1-2**] 10:28 ------

2113-01-04 07:40:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
   - pt continued to be drowsy, changed oxycodone dosing to TID
   - pt had several large bowel movements; guaiac positive, cdiff sent
   - urine lytes show FeNa < 1%, receiving 1 L NS
   - Chest PA/Lat: Unremarkable postoperative changes. No evidence of new
   acute infiltrate, pleural effusion, or pneumothorax.
   - Iron studies show [**Doctor First Name **] - now on iron and ascorbic acid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-1-3**] 08:00 PM
   Ciprofloxacin - [**2113-1-4**] 04:00 AM
   Metronidazole - [**2113-1-4**] 06:00 AM
   Infusions:
   Nitroglycerin - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-4**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.5
C (97.7
   HR: 81 (67 - 115) bpm
   BP: 166/71(226) {95/50(66) - 173/82(309)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 73.4 kg
   Height: 64 Inch
             Total In:
                                                                  3,586 mL
                                                                    772 mL
   PO:
                                                                    950 mL
             TF:
   IVF:
                                                                  2,636 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    900 mL
   Urine:
                                                                  2,350 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,236 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General: middle-aged man, lying in bed on back, NC in place, mildly
   sedated appearing with eyes closed
   HEENT: NC/AT, oropharynx clear
   Cardiac: Regular rate & rhythm, no murmurs
   Pulm: Clear to auscultation bilaterally
   Abdominal: soft, non-distended, mildly tender to palpation throughout
   all quadrants, positive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: (Right radial pulse: Not assessed as A-line in
   place), (Left radial pulse: Present), (Right DP pulse: Present), (Left
   DP pulse: Present)
   Neurologic: Alert & oriented x 3, but expressing some confusion, slow
   speech
   Labs / Radiology
   145 K/uL
   7.2 g/dL
   148 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   18 mg/dL
   99 mEq/L
   132 mEq/L
   20.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2112-12-31**]  11:08 PM
                             [**2113-1-1**]  04:44 AM
                             [**2113-1-1**]  11:08 AM
                             [**2113-1-1**]  11:12 AM
                             [**2113-1-1**]  11:18 AM
                             [**2113-1-2**]  03:17 AM
                             [**2113-1-2**]  01:29 PM
                             [**2113-1-2**]  05:28 PM
                             [**2113-1-3**]  01:58 AM
                             [**2113-1-4**]  06:16 AM
   WBC
   7.9
   11.2
   10.1
   9.9
   7.1
   6.2
   Hct
   26.8
   27.9
   24.9
   22.4
   21.9
   22.8
   20.0
   Plt
   159
   151
   165
   142
   132
   119
   145
   Cr
   0.9
   1.0
   1.3
   TropT
   0.22
   0.26
   0.14
   0.06
   TCO2
   25
   Glucose
   160
   219
   148
   Other labs: PT / PTT / INR:12.6/25.2/1.1, CK / CKMB /
   Troponin-T:55/3/0.06, ALT / AST:26/30, Alk Phos / T Bili:63/0.7,
   Amylase / Lipase:32/, Differential-Neuts:84.9 %, Lymph:11.2 %, Mono:3.1
   %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, LDH:180 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12576**] is a 64M with severe CAD s/p CABG x 3. He is not a surgical
   candidate per CT surgery.
   .
   #. CORONARY ARTERY DISEASE: Pt with CAD s/p CABG x 3. Pt with severe 3V
   disease with 1 graft patent.  Plan for cardiac catheterization with Dr.
   [**Last Name (STitle) 7145**] today.  IABP was pulled on [**1-2**] out of concern for infection with
   fevers.  Nitro gtt was discontinued on [**1-2**], but restarted on [**1-3**]
   because of chest pain.  Patient with mild chest pain this AM.
   - Cardiac catheterization pending family meeting today, as patient
   refusing blood products with Hct of 20.0
   - Heparin gtt on hold given low Hct
   - Continue Nitro gtt
   - Integrillin/Plavix held for now
   - Continue Metoprolol 12.5mg PO BID as tolerated by BP and HR
   - High dose statin, ASA
   - EKG
s PRN chest pain
   .
   #. Anemia: Hct down to 20.0 from 27.8. Guaiac positive on [**1-3**].  Iron
   studies c/w iron deficiency. Given severe CAD with active chest pain,
   Hct goal is 30 but patient is refusing pRBC
s given religious beliefs
   (Jehovah
s Witness).
   - Continue Epo 4000u SC (began yesterday on Tu/Th/Sat schedule)
   - Continue Fe supplementation
   - Continue to hold Heparin given hct drop, on pneumoboots
   - Trend CBC
   - Fluid resuscitation PRN with IVF
   .
   #. Fever: Patient with recurring fevers on [**1-1**] on Tylenol for which he
   was started on IV Vancomycin because IABP was in place.  IABP was
   pulled on [**1-2**]. Blood cultures, urine cultures from [**1-1**] & [**1-2**] no
   growth to date. U/A
s x 3 negative. C. diff negative. Abdominal CT scan
   with wall thickening in cecum & ascending colon. CXR clear.  WBC
   normal.  Patient afebrile since morning of [**1-3**].
   - D/C Vancomycin
   - continue Ciprofloxacin day 3, switched to PO
   - continue Flagyl day 3, switched to PO
   - continue to follow WBC and fever curve
   - F/U all blood cx
   - F/U any surgery recs
   .
   #. ACUTE RENAL FAILURE:  Creatinine back down at 1.0 after 1L IVF
s on
   [**1-3**].
   - Continue to trend
   .
   #. PUMP: ECHO with distal septal hypokinesis, EF 55%. Appears euvolemic
   on exam without evidence of failure.
   - Continue to assess fluid status
   - Continue BB and Captopril
   .
   #. RHYTHM: Patient in sinus rhythm, but has lots of PVCs.
   - Replete K and Mg
   - Continue to monitor on telemetry
   .
   #. DIABETES:  Hemoglobin A1c 8.0
   - Continue to hold home Glyburide, Metformin
   - HISS, titrate PRN
   .
   #. HYPERCHOLESTEROLEMIA: Total cholesterol 117, HDL 31, LDL 54
   - Continue Atorvastatin 80mg daily
   - Continue Gemfibrizol 600mg [**Hospital1 7**]
   - Continue Ezetimibe 10mg daily
   .
   #. Chronic Pain: Patient has old left shoulder pain (10 years +),
   current right shoulder pain (3 days +) and back pain. He has an
   overlapping musculoskeletal pain syndrome that can be worrisome for the
   pain of angina. His presentation begun with a piercing left chest pain.
   Oxycodone dosing changed for oversedation on [**1-3**].
   - Oxycodone 15mg PO TID
   - Morphine 2-4mg IV q4H:PRN
   - EKG
s when called for chest pain
   - Nitro gtt
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2112-12-31**] 02:56 AM
   20 Gauge - [**2113-1-3**] 05:09 PM
   Prophylaxis:
   DVT: Pneumoboots (no Heparin due to low Hct & refusal of blood
   products)
   Stress ulcer: None
   VAP:  None
   Communication:  Patient
   Code status: Full code
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12599**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2113-1-5**] 10:06 ------

2113-01-05 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Vanc discontinued
   - Cipro/flagyl changed to PO
   - Family meeting with [**Doctor Last Name 7145**]: pt continues to refuse pRBC
   - Patient was taken to cath lab with a radial approach used to minimize
   blood loss.  No intervention was performed because of tight lesions.
   - Dr. [**Last Name (STitle) 7145**] will bring patient back in the next month or so for repeat
   cath
   - To start on Ranolazine and Imdur today & increase Metoprolol from
   12.5mg [**Hospital1 7**] to 25mg [**Hospital1 7**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2113-1-4**] 04:00 AM
   Vancomycin - [**2113-1-4**] 08:00 AM
   Metronidazole - [**2113-1-5**] 06:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-5**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 67 (66 - 80) bpm
   BP: 134/61(79) {105/50(63) - 144/69(84)} mmHg
   RR: 21 (9 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73.4 kg
   Height: 64 Inch
             Total In:
                                                                  2,889 mL
                                                                    369 mL
   PO:
                                                                    210 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,679 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    400 mL
   Urine:
                                                                  2,600 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -211 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished man, lying in bed, NAD
   Cardiovascular: (S1: Normal), (S2: Normal) no murmurs
   Respiratory: Clear to auscultation anteriorly
   Abdominal: soft, non-tender, non-distended, normoactive bowel sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: A&Ox3, grossly neurologically intact
   Labs / Radiology
   170 K/uL
   6.9 g/dL
   156 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   10 mg/dL
   106 mEq/L
   136 mEq/L
   19.5 %
   5.7 K/uL
        [image002.jpg]
                             [**2113-1-1**]  04:44 AM
                             [**2113-1-1**]  11:08 AM
                             [**2113-1-1**]  11:12 AM
                             [**2113-1-1**]  11:18 AM
                             [**2113-1-2**]  03:17 AM
                             [**2113-1-2**]  01:29 PM
                             [**2113-1-2**]  05:28 PM
                             [**2113-1-3**]  01:58 AM
                             [**2113-1-4**]  06:16 AM
                             [**2113-1-5**]  02:39 AM
   WBC
   7.9
   11.2
   10.1
   9.9
   7.1
   6.2
   5.7
   Hct
   26.8
   27.9
   24.9
   22.4
   21.9
   22.8
   20.0
   19.5
   Plt
   151
   165
   142
   132
   119
   145
   170
   Cr
   0.9
   1.0
   1.3
   1.0
   0.9
   TropT
   0.22
   0.26
   0.14
   0.06
   TCO2
   25
   Glucose
   160
   219
   148
   199
   156
   Other labs: PT / PTT / INR:12.6/25.2/1.1, CK / CKMB /
   Troponin-T:60/3/0.06, ALT / AST:26/30, Alk Phos / T Bili:63/0.7,
   Amylase / Lipase:32/, Differential-Neuts:84.9 %, Lymph:11.2 %, Mono:3.1
   %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, LDH:180 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12576**] is a 64M with severe CAD s/p CABG x 3 here with CP s/p
   cardiac catheterization.
   .
   #. CORONARY ARTERY DISEASE: Pt with CAD s/p CABG x 3. Pt with severe 3V
   disease with 1 graft patent.  Underwent cardiac catheterization by
   arterial access with Dr. [**Last Name (STitle) 7145**] yesterday.  No interventions were made.
   Dr. [**Last Name (STitle) 7145**] plans to re-cath when patient
s Hct rebounds. Following cath,
   Nitro gtt held. Patient now with mild chest pain this AM.
   - Start Imdur ER 30mg daily & Ranolazine 500mg PO BID
   - Increase Metoprolol 12.5mg PO BID to 25mg [**Hospital1 7**] as tolerated by BP and
   HR
   - No anticoagulation given low Hct
   - Continue High dose statin, ASA
   - EKG
s PRN chest pain
   .
   #. Anemia: Hct down to 19.5 from 27.8. Guaiac positive on [**1-3**].  Iron
   studies c/w iron deficiency. Patient refusing pRBC
s given religious
   beliefs (Jehovah
s Witness).
   - Continue Epo 4000u SC (Tu/Th/Sat schedule)
   - Continue Fe supplementation
   - Continue to hold Heparin given hct drop, on pneumoboots
   - Trend CBC
   - Fluid resuscitation PRN with IVF
   .
   #. Fever: Patient with fevers on [**1-1**] for which he was started on IV
   Vancomycin because IABP was in place.  IABP was pulled on [**1-2**]. Blood
   cultures from [**1-1**], [**1-2**], [**1-3**] no growth to date. U/A
s & Urine
   cultures x 3 negative. C. diff negative. CXR clear.  WBC normal.
   Abdominal CT scan with wall thickening in cecum & ascending colon, but
   since starting antibiotics, pain and fever have continued to improve.
   Patient afebrile since 8AM yesterday.
   - continue PO Ciprofloxacin 500mg q12H, day 4
   - continue PO Flagyl 500mg q8H, day 4
   - continue to follow WBC and fever curve
   - F/U outstanding blood cx
   .
   #. ACUTE RENAL FAILURE:  Creatinine back down at 1.0 after 1L IVF
s on
   [**1-3**].
   - Continue to trend
   .
   #. PUMP: ECHO with distal septal hypokinesis, EF 55%. Appears euvolemic
   on exam without evidence of failure.
   - Continue to assess fluid status
   - Continue BB and Captopril
   .
   #. RHYTHM: Patient in sinus rhythm, but has lots of PVCs.
   - Replete K and Mg
   - Continue to monitor on telemetry
   .
   #. DIABETES:  Hemoglobin A1c 8.0
   - Continue to hold home Glyburide, Metformin
   - HISS, titrate PRN
   .
   #. HYPERCHOLESTEROLEMIA: Total cholesterol 117, HDL 31, LDL 54
   - Continue Atorvastatin 80mg daily
   - Continue Gemfibrizol 600mg [**Hospital1 7**]
   - Continue Ezetimibe 10mg daily
   .
   #. Chronic Pain: Patient has old left shoulder pain (10 years +), and
   back pain. He has an overlapping musculoskeletal pain syndrome that can
   be worrisome for the pain of angina. His presentation begun with
   piercing left chest pain. Oxycodone dosing changed for oversedation on
   [**1-3**].
   - Oxycodone 15mg PO TID
   - Convert Morphine 2-4mg IV q4H:PRN to PRN PO Oxycodone for home
   regimen
   - EKG
s when called for chest pain
   ICU Care
   Nutrition: cardiac/heart healthy diet
   Glycemic Control:  Insulin sliding scale
   Lines:
   22 Gauge - [**2113-1-5**] 12:30 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:  none
   Comments:
   Communication:  Patient
   Code status: Full code
   Disposition: to home, when O2 weaned
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12599**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2113-1-5**] 10:35 ------